US06194410B1
1.57 ml (15.70 mml) of 1-methyl-piperazine were added to a solution of 2.9 g (7.84 mmol) of 3-benzenesulphonyl-5-chloromethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol in 20 ml of DMF and stirred at RT for 4 hrs. The reaction solution was evaporated and the residue was partitioned between 0.5N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2. The combined organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH 4:1) yielded 1.85 g (53%) of 3-benzenesulphonyl-5-(4-methyl-piperazin-1-ylmethyl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol as a beige powder, m.p.>220°.

reactant | 1-methyl-piperazine | 1.57 ml | CN1CCNCC1 | C5H12N2
reactant | 3-benzenesulphonyl-5-chloromethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 7.84 mmol, 2.9 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)CCl)SC | C14H12ClN3O3S2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-(4-methyl-piperazin-1-ylmethyl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 1.85 g, 53% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)CN2CCN(CC2)C)SC | C19H23N5O3S2
